US07951795B2
Step A. Benzyl[(7R)-4-chloro-8-oxo-9-(2,2,2-trifluoroethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl]carbamate
A mixture of 2-(R)-benzyloxycarbonylamino-3-(7-chloro-4-chloromethyl-1H-indazol-5-yl)propionic acid methyl ester (525 mg, 1.20 mmol) [Chaturvedula et al. WO 2006/052378], trifluoroethylamine (1.0 g, 10.2 mmol), and K2CO3 (499 mg, 3.61 mmol) in CH3CN (15 mL) was heated at 40° C. in a sealed vessel for 45 h. Additional trifluoroethylamine (1.0 g, 10.2 mmol) was added and the mixture was heated at 40° C. for a further 48 h and then allowed to cool to ambient temperature. The reaction mixture was filtered through a 0.45 μm PTFE membrane and the filtrate was concentrated in vacuo. The residue was dissolved in toluene (10 mL) and AcOH (1 mL) and the mixture was heated at reflux for 6 h, allowed to cool to ambient temperature, and partitioned between saturated aqueous NaHCO3 (30 mL) and EtOAc (60 mL). The organic layer was washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified by silica gel chromatography, eluting with a gradient of CH2Cl2:EtOAc-100:0 to 50:50, to provide the title compound. MS: m/z=467.

reactant | 2-(R)-benzyloxycarbonylamino-3-(7-chloro-4-chloromethyl-1H-indazol-5-yl)propionic acid methyl ester | 1.20 mmol, 525 mg | COC([C@@H](CC=1C(=C2C=NNC2=C(C1)Cl)CCl)NC(=O)OCC1=CC=CC=C1)=O | C20H19Cl2N3O4
reactant | trifluoroethylamine | 10.2 mmol, 1.0 g | FC(CN)(F)F | C2H4F3N
reactant | K2CO3 | 3.61 mmol, 499 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | trifluoroethylamine | 10.2 mmol, 1.0 g | FC(CN)(F)F | C2H4F3N
solvent | CH3CN | 15 mL | CC#N | C2H3N
product | Benzyl[(7R)-4-chloro-8-oxo-9-(2,2,2-trifluoroethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl]carbamate | C(C1=CC=CC=C1)OC(N[C@@H]1CC2=C(C=3C=NNC3C(=C2)Cl)CN(C1=O)CC(F)(F)F)=O | C21H18ClF3N4O3
